US08309546B2
5-{8-[(3R)-4-Acetyl-3-methylpiperazin-1-yl]-9-isobutyl-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine
Triethylamine (79.9 μl, 0.57 mmol) was added to a methylene chloride solution (3.0 ml) of 5-{9-isobutyl-8-[(3R)-3-methylpiperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine (108.1 mg, 0.24 mmol) at room temperature followed by the addition of acetic anhydride (27.1 μl, 0.29 mmol) with ice cooling. The resulting mixture was stirred at room temperature for 1 hour and then the reaction mixture was poured into methylene chloride-methanol (10:1), washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure and the resulting residue was purified by preparative thin layer silica gel chromatography (methylene chloride:methanol=10:1) to give the title compound (110.9 mg, 94%) as a pale yellow solid.

reactant | Triethylamine | 0.57 mmol, 79.9 μl | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 3.0 ml | C(Cl)Cl | CH2Cl2
reactant | 5-{9-isobutyl-8-[(3R)-3-methylpiperazin-1-yl]-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 0.24 mmol, 108.1 mg | C(C(C)C)N1C2=NC(=NC(=C2N=C1N1C[C@H](NCC1)C)N1CCOCC1)C=1C=NC(=NC1)N | C22H32N10O
reactant | acetic anhydride | 0.29 mmol, 27.1 μl | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride methanol | C(Cl)Cl.CO
product | 5-{8-[(3R)-4-Acetyl-3-methylpiperazin-1-yl]-9-isobutyl-6-morpholin-4-yl-9H-purin-2-yl}pyrimidin-2-amine | 110.9 mg, 94% | C(C)(=O)N1[C@@H](CN(CC1)C=1N(C2=NC(=NC(=C2N1)N1CCOCC1)C=1C=NC(=NC1)N)CC(C)C)C | C24H34N10O2
